US06846927B1
b) Preparation of 9-(4-hydroxy-3-hydroxymethylbut-1-yl)guanine—penciclovir
A mixture of 9-(4-acetoxy-3-acetoxymethylbut-1-yl)-2-amino-6-chloropurine (10 g, 28.1 mmole), formic acid (96%. 6.3 ml) and water (55 ml) was stirred and heated to reflux for about 4 hours. After cooling the solution was basified by mixing with sodium hydroxide solution (12.5M, 27 ml) and the resulting solution was stirred for 1.5 hrs. The solution was neutralised by the addition of formic acid. The resultant slurry was heated to reflux (ca 105° C.) then cooled to 40-45° C. and stirred for about 3 hours. The crude product is then isolated and washed with water (20 ml). The isolated product was dissolved in sodium hydroxide solution (3M, 80 ml). Carbon (ca 1.5 g) was added and the slurry stirred for about 1 hr then the carbon was removed by filtration and washed with water (20 ml). The solution was neutralised by the addition of formic acid and the resultant precipitate was redissolved by heating to ca 100° C. and was then cooled. The precipitated product was stirred for about 3 hrs then isolated and washed with water (2×20 ml) before being dried.

reactant | 9-(4-acetoxy-3-acetoxymethylbut-1-yl)-2-amino-6-chloropurine | 28.1 mmole, 10 g | C(C)(=O)OCC(CCN1C2=NC(=NC(=C2N=C1)Cl)N)COC(C)=O | C14H18ClN5O4
reactant | water | 55 ml | O | H2O
reactant | sodium hydroxide | 12.5M, 27 ml | [OH-].[Na+]
solvent | formic acid | C(=O)O | CH2O2
solvent | formic acid | 6.3 ml | C(=O)O | CH2O2
product | 9-(4-hydroxy-3-hydroxymethylbut-1-yl)guanine penciclovir | OCC(CCN1C=2N=C(NC(C2N=C1)=O)N)CO.C1=NC2=C(N1CCC(CO)CO)N=C(N=C2O)N | 2C10H15N5O3
